US07517889B2
A solution of (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichlorophenyl)-ethyl]amine (0.24 g), 2-[4-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methyl-propionic acid (0.4 g), Cs2CO3 (1.01 g) and tetrakis(triphenylphosphine)palladium (0) (100 mg) in water (20 mL)/DME (80 mL) is heated at 90° C. for 16 h. The solution is poured into water and extracted with EtOAc (2×200 mL). The organic layer is dried over sodium sulfate, filtered, evaporated in vacuo. The residue is chromatographed on silica gel eluting with EtOAc to afford 2-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-4-fluoro-phenyl)-2-methyl-propionic acid (100 mg), which is dissolved in THF (4 mL) and treated with 4 N HCl in 1,4-dioxane (1 mL). The mixture is concentrated in vacuo and the residue is suspended in ether (25 mL). The solid is formed and filtered under nitrogen to afford 2-(3-{6-[2-(2,4-Dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-4-fluoro-phenyl)-2-methyl-propionic acid hydrochloride (67 mg, Example 99). MS: 478 (M+H); 1H NMR (300 MHz, NMR, CD3OD) □7.8, (d, 1H, J=0.3 Hz); 7.4 (m, 2H); 7.35 (s, 1H); 7-7.15 (m, 4H); 6.6 (s, 1H); 4.2 (s, 3H); 3.6 (m, 2H); 3.05 (t, 2H); 1.65 (s, 6H). IC50=0.5 nM

reactant | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichlorophenyl)-ethyl]amine | 0.24 g | ClC1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3O
reactant | 2-[4-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methyl-propionic acid | 0.4 g | FC1=C(C=C(C=C1)C(C(=O)O)(C)C)B1OC(C(O1)(C)C)(C)C | C16H22BFO4
reactant | Cs2CO3 | 1.01 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DME | 80 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-4-fluoro-phenyl)-2-methyl-propionic acid | 100 mg | ClC1=C(C=CC(=C1)Cl)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1F)C(C(=O)O)(C)C | C23H22Cl2FN3O3
